US05811459
4-[3-(2-Benzyloxy-5-hydroxyphenyl)propyl]benzoic acid
To a mixture of 4-[3-(2-hydroxy-5-(t-butylcarbonyloxy)phenyl)propyl]benzoic acid (3 g) and potassium carbonate (3.5 g) in DMF (10 ml) was added benzyl bromide (2.97 ml). The mixture was stirred for 18 hours, poured into ethyl acetate (100 ml) and water (100 ml). The organic solution was washed with brine (100 ml), dried (magnesium sulphate) filtered and evaporated. The residue was purified by subjecting to chromatography on silica gel using ethyl acetate:hexane (1:9) as eluant. There was thus obtained benzyl 4-[3-(2-benzyloxy-5-(t-butylcarbonyloxy) phenyl)propyl]benzoate (2 g)

reactant | 4-[3-(2-hydroxy-5-(t-butylcarbonyloxy)phenyl)propyl]benzoic acid | 3 g | OC1=C(C=C(C=C1)OC(=O)C(C)(C)C)CCCC1=CC=C(C(=O)O)C=C1 | C21H24O5
reactant | potassium carbonate | 3.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | benzyl bromide | 2.97 ml | C(C1=CC=CC=C1)Br | C7H7Br
reactant | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | water | 100 ml | O | H2O
product | 4-[3-(2-Benzyloxy-5-hydroxyphenyl)propyl]benzoic acid | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)O)CCCC1=CC=C(C(=O)O)C=C1 | C23H22O4
